US08648189B2
5-Chloro-N-({(5S)-2-oxo-3-[4-(3-oxo-4-morpholinyl)phenyl]-1,3-oxazolidin-5-yl}methyl)-2-thiophencarboxamide
Under an atmosphere of nitrogen a suspension of 1.00 g of toluene-4-sulfonic acid (S)-3-[(5-chloro-thiophene-2-carbonyl)-amino]-2-[4-(3-oxo-morpholin-4-yl)-phenylcarbamoyloxy]-propyl ester (MW=608.09; 1 eq.) in 25 mL tetrahydrofuran was cooled to 0° C. At this temperature 1.6 mL of a 1M solution of lithium t-butoxide in tetrahydrofuran were added dropwise. After stirring at this temperature for 1 hour the resulting slurry was filtered. The cake was rinsed with 14 mL of tetrahydrofuran and 14 mL of water. The wet product was dried at 30° C. in vacuo to yield 0.63 g (MW=435.89; 1.013 eq.) of the title compound (88.5% of theory).

reactant | toluene-4-sulfonic acid (S)-3-[(5-chloro-thiophene-2-carbonyl)-amino]-2-[4-(3-oxo-morpholin-4-yl)-phenylcarbamoyloxy]-propyl ester | 1.00 g, 1 eq. | ClC1=CC=C(S1)C(=O)NC[C@@H](COS(=O)(=O)C1=CC=C(C=C1)C)OC(NC1=CC=C(C=C1)N1C(COCC1)=O)=O | C26H26ClN3O8S2
reactant | lithium t-butoxide | CC(C)([O-])C.[Li+]
solvent | tetrahydrofuran | 25 mL | O1CCCC1 | C4H8O
product | 5-Chloro-N-({(5S)-2-oxo-3-[4-(3-oxo-4-morpholinyl)phenyl]-1,3-oxazolidin-5-yl}methyl)-2-thiophencarboxamide | 88.5% | ClC1=CC=C(S1)C(=O)NC[C@H]1CN(C(O1)=O)C1=CC=C(C=C1)N1C(COCC1)=O | C19H18ClN3O5S
